US08609682B2
(17-Cyclopropylmethyl-3,14β-dihydroxy-4,5α-epoxy-6β-[(2′naphthyl)acetamido]morphinan)
b-Naltrexamine (400 mg, 1.16 mmol), naphthoic acid (399 mg, 2.32 mmol) and BOP (1.03 g, 2.32 mmol) were dissolved in DCM (15 mL). To this solution, DIPEA (600 mL, 3.25 mmol) was added and the mixture was stirred at room temperature for 16 hours. The solution was concentrated under reduced pressure and the residue was taken up in MeOH (15 mL), and K2CO3 was added (1.2 g). After 1 hour at room temperature, the mixture was concentrated to dryness. The final crude was purified by SiO2 chromatography (eluted with EtOAc/Hexanes: 4/1) to afford the desired compound as a white solid. The target compound was recrystallized from an acetone/hexanes (1/4: v/v) mixture providing a white solid (473 mg, 82%). The title compound was then subsequently converted into the HCl salt for biological testing.

reactant | b-Naltrexamine | 1.16 mmol, 400 mg | C1C[C@]2([C@H]3CC4=C5[C@@]2(CCN3CC6CC6)[C@H]([C@@H]1N)OC5=C(C=C4)O)O | C20H26N2O3
reactant | naphthoic acid | 2.32 mmol, 399 mg | C=1C=CC=2C(C1)=CC=CC2C(=O)O | C11H8O2
reactant | BOP | 2.32 mmol, 1.03 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 3.25 mmol, 600 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 17-Cyclopropylmethyl-3,14β-dihydroxy-4,5α-epoxy-6β-[(2′naphthyl)acetamido]morphinan | C1(CC1)CN1[C@H]2[C@@]3(CC[C@H]([C@H]4[C@@]3(C=3C(=C(C=CC3C2)O)O4)CC1)NC(CC1=CC=CC4=CC=CC=C14)=O)O | C32H34N2O4
